US06603005B2
A mixture of 24.8 g of tert-butyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-4-hydroxymethylpiperidine-1-carboxylate in 400 cm3 of dichloromethane and 12.9 cm3 of triethylamine was cooled to about 0° C. with stirring and under an inert atmosphere. Methanesulfonyl chloride, dissolved beforehand in 125 cm3 of dichloromethane, was added dropwise and the reaction mixture was then stirred for 18 hours at a temperature in the region of 20° C. 200 cm3 of water were added to the reaction mass, followed by a further addition of 3 000 cm3 of water. The phases were separated by settling and the aqueous phase was extracted with 200 cm3 of dichloromethane. The organic extracts were washed with 300 cm3 of aqueous sodium chloride solution, dried over sodium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 45° C. 30.6 g of tert-butyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-4-methanesulfonyloxymethylpiperidine-1-carboxylate were obtained in the form of an orange-colored oil.

reactant | tert-butyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-4-hydroxymethylpiperidine-1-carboxylate | 24.8 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)C(=O)OC(C)(C)C)CO)OC | C24H33ClN2O4
reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 cm3 | O | H2O
solvent | dichloromethane | 400 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 12.9 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 125 cm3 | ClCCl | CH2Cl2
product | tert-butyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-4-methanesulfonyloxymethylpiperidine-1-carboxylate | 30.6 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)C(=O)OC(C)(C)C)COS(=O)(=O)C)OC | C25H35ClN2O6S
